US06936608B2
A mixture of 4-bromonicotinonitrile (1.00 g, 5.46 mmol), 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (1.90 g, 7.10 mmol) and potassium fluoride (1.05 g, 18.03-mmol) in tetrahydrofuran (50 ml) was degassed with nitrogen for 30 min then treated with tris(dibenzylideneacetone)dipalladium(0) (0.05 g, 0.05 mmol) followed by tri-tert-butylphosphine (0.60 ml of a 0.2 M solution in 1,4-dioxane, 0.11 mmol) and then the reaction was stirred at ambient temperature for 30 min before heating at 50° C. for 1 h to complete the coupling. The slurry-like reaction mixture was then diluted with water (100 ml) and stirred at ambient temperature for 90 min. The resulting solid was collected by filtration, washed with water then with isohexane, and finally dried under vacuum over phosphorus pentoxide, to afford 4-(2-fluoro-5-nitrophenyl)-nicotinonitrile as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.44-7.52 (2H, m), 8.38-8.47 (2H, m), 8.95 (1H, d, J 5 Hz), 9.06 (1H, s).

reactant | 4-bromonicotinonitrile | 5.46 mmol, 1.00 g | BrC1=CC=NC=C1C#N | C6H3BrN2
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 7.10 mmol, 1.90 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
reactant | potassium fluoride | 18.03-mmol, 1.05 g | [F-].[K+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.05 mmol, 0.05 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-fluoro-5-nitrophenyl)-nicotinonitrile | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=NC=C1C#N | C12H6FN3O2
